US04067723
Pyridazine-3-carboxylic acid [prepared as described by Leanza, Becker and Rogers, J.A.C.S., 75, 4086 (1953); 18.6 g.] was mixed with benzaldehyde (44 g.) and p-cymene (360 ml.) and decarboxylated by heating for 3 hours at 135° C. The hot solution was then filtered, cooled and the precipitate collected to give (±) 3-α-hydroxybenzylpyridazine (5.2 g.), m.p. 130°-135° C., in the form of fawn coloured needles.

reactant | Pyridazine-3-carboxylic acid | 18.6 g | N1=NC(=CC=C1)C(=O)O | C5H4N2O2
reactant | benzaldehyde | 44 g | C(C1=CC=CC=C1)=O | C7H6O
solvent | p-cymene | 360 ml | CC=1C=CC(=CC1)C(C)C | C10H14
product | (±) 3-α-hydroxybenzylpyridazine | 5.2 g | OC(C1=CC=CC=C1)C=1N=NC=CC1 | C11H10N2O
